US07579359B2
A solution of 3-(pentanoylamino)[1,5]naphthyridin-4-yl trifluoromethanesulfonate (2.7 g, 7.2 mmol), O-isopropylhydroxylamine hydrochloride (1.1 g, 9.9 mmol), and isopropanol (50 mL) was heated at reflux for six hours, allowed to cool to room temperature, stirred overnight, and concentrated under reduced pressure. The residue was stirred with dichloromethane (100 mL) and saturated aqueous sodium carbonate (50 mL) for 15 minutes. The organic layer was separated and dried over potassium carbonate, filtered, and concentrated under reduced pressure. The crude product (2.3 g) was purified by column chromatography on silica gel (eluting with 5% methanol in dichloromethane containing 2 mL of aqueous ammonium hydroxide per liter of eluent) to provide 0.40 g of 2-butyl-1-isopropoxy-1H-imidazo[4,5-c][1,5]naphthyridine as an oil.

reactant | 3-(pentanoylamino)[1,5]naphthyridin-4-yl trifluoromethanesulfonate | 7.2 mmol, 2.7 g | FC(S(=O)(=O)OC1=C(C=NC2=CC=CN=C12)NC(CCCC)=O)(F)F | C14H14F3N3O4S
reactant | O-isopropylhydroxylamine hydrochloride | 9.9 mmol, 1.1 g | Cl.C(C)(C)ON
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 2-butyl-1-isopropoxy-1H-imidazo[4,5-c][1,5]naphthyridine | 0.40 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=NC23)N1)OC(C)C | C16H20N4O
